US04128658
5-[5-(Dimethylamino)methyl-2-furanyl]pentanamine (0.5 g) and methylisothiocyanate (0.25 g) were stirred in acetonitrile at room temperature for 24 hr. Solvent was removed and the product purified by column chromatography (silica/methanol) to give after trituration with ether N-[5-(5-(dimethylamino)methyl-2-furanyl]pentyl]-N'-methylthiourea as off-white crystals m.p. 66°-69°.

reactant | 5-[5-(Dimethylamino)methyl-2-furanyl]pentanamine | 0.5 g | CN(C)CC1=CC=C(O1)CCCCCN | C12H22N2O
reactant | methylisothiocyanate | 0.25 g | CN=C=S | C2H3NS
solvent | acetonitrile | C(C)#N | C2H3N
product | ether N-[5-(5-(dimethylamino)methyl-2-furanyl]pentyl]-N'-methylthiourea | CCOCC.CN(C)CC1=CC=C(O1)CCCCCNC(=S)NC | InChI=1S/C14H25N3OS.C4H10O/c1-15-14(19)16-10-6-4-5-7-12-8-9-13(18-12)11-17(2)3;1-3-5-4-2/h8-9H,4-7,10-11H2,1-3H3,(H2,15,16,19);3-4H2,1-2H3
